US04933355
Ethyl 2-(Thiomorpholin-4-yl)thiazole-4-carboxylate
The reaction described in Preparation 26 was repeated, but using 1.53 g of thiomorpholine, 2.36 g of ethyl 2-bromothiazole-4-carboxylate, 2.02 g of triethylamine and 40 ml of dimethylformamide, giving the title compound as a pale yellow powder.

reactant | thiomorpholine | 1.53 g | N1CCSCC1 | C4H9NS
reactant | ethyl 2-bromothiazole-4-carboxylate | 2.36 g | BrC=1SC=C(N1)C(=O)OCC | C6H6BrNO2S
reactant | triethylamine | 2.02 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-(Thiomorpholin-4-yl)thiazole-4-carboxylate | N1(CCSCC1)C=1SC=C(N1)C(=O)OCC | C10H14N2O2S2
